### PR TITLE
[Merged by Bors] - feat: Laplacian matrix of a simple graph

### PR DESCRIPTION
**Pull request by awueth**
Contains the definition of the graph laplacian and proofs of some its properties, including that it is positive semidefinite and that the dimension of its nullspace equals the number of connected components of the graph.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 1]
```diff
@@ -0,0 +1,347 @@
...
+/-- `lapMatrix G R` is the matrix `L = D - A` where `D`is the degree
+  and `A` the adjacency matrix of `G`. -/
+def SimpleGraph.lapMatrix (R : Type*) [Ring R] : Matrix V V R := G.degMatrix R - G.adjMatrix R
+
+@[simp]
+theorem transpose_lapMatrix (R : Type*) [Ring R] : (G.lapMatrix R)ᵀ = G.lapMatrix R := by
+  unfold lapMatrix degMatrix
+  rw [transpose_sub, diagonal_transpose, transpose_adjMatrix]
+
+@[simp]
```
Comment (alexjbest) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:55]: Does tagging this as simp benefit you anywhere? I can't think of how it would but I may be missing something!

Comment (awueth) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:55]: No, I just saw that the equivalent theorem for the adjacency matrix was tagged with simp and assumed it was good practice. Should I remove @[simp] where it is not needed? I might not use them anywhere since I mostly used simp only [...].

Comment (alexjbest) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:55]: Hmm indeed that sounds strange to me. Well you should think about how likely it is that the lemma will be used by simp, generally lemmas that are an equality or iff statement where the LHS is more complicated than the RHS are the obvious ones. If the statement is some property like this then it is generally rarer that simp would be the tactic people would be using on goals containing that property, they'd just use that single lemma directly

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 2]
```diff
@@ -0,0 +1,347 @@
...
+
+-/
+
+
+open BigOperators Finset Matrix SimpleGraph
+
+variable {V : Type*} [Fintype V] [DecidableEq V] (G : SimpleGraph V) [DecidableRel G.Adj]
+
+/-- The diagonal matrix consisting of the degrees of the vertices in the graph. -/
+def SimpleGraph.degMatrix (R : Type*) [Ring R] : Matrix V V R := Matrix.diagonal (G.degree ·)
```
Comment (alexjbest) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:44]: I'm not sure if `[Ring R]` is the best assumption here, generally we go as weak as possible, so I'd it least try and include the naturals, but this should make sense for any `AddMonoidWithOne` I hope

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 3]
```diff
@@ -0,0 +1,347 @@
...
+  and `A` the adjacency matrix of `G`. -/
+def SimpleGraph.lapMatrix (R : Type*) [Ring R] : Matrix V V R := G.degMatrix R - G.adjMatrix R
+
+@[simp]
+theorem transpose_lapMatrix (R : Type*) [Ring R] : (G.lapMatrix R)ᵀ = G.lapMatrix R := by
+  unfold lapMatrix degMatrix
+  rw [transpose_sub, diagonal_transpose, transpose_adjMatrix]
+
+@[simp]
+theorem isSymm_lapMatrix (R : Type*) [Ring R] : (G.lapMatrix R).IsSymm := transpose_lapMatrix G R
```
Comment (alexjbest) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:56]: Probably you should put the R and the assumptions as a line `variable` at the start of a section of you have to repeat it a lot. I would also think R should be implicit for a lot of these, as R can be read off from the type of the thing being proved and there is likely only one possible R under consideration in any proof about these things

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 4]
```diff
@@ -0,0 +1,347 @@
...
+    · rw [← h']
+      specialize h i j
+      rw [h]
+      exact hA
+  · intro h i j hA
+    specialize h i j
+    have hR : Reachable G i j
+    · simp only [Adj.reachable hA]
+    simp [hR] at h
+    exact h
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:268]:
```suggestion
  · exact fun h i j hA ↦ h i j (Adj.reachable hA)
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 5]
```diff
@@ -0,0 +1,347 @@
...
+  · intro h i j
+    unfold Reachable
+    rw [Nonempty.forall]
+    intro w
+    induction' w with w i j _ hA _ h'
+    · rfl
+    · rw [← h']
+      specialize h i j
+      rw [h]
+      exact hA
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:262]:
```suggestion
    · exact (h i j hA).trans h'
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 6]
```diff
@@ -0,0 +1,347 @@
...
+      apply sum_pos'
+      · intro i
+        simp only [mem_univ, forall_true_left]
+        apply sum_nonneg'
+        intro j
+        split_ifs
+        · exact sq_nonneg (x i - x j);
+        · rfl
+      · simp only [mem_univ, true_and]
+        use i
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:214]: You now have two variables called `i` at once

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 7]
```diff
@@ -0,0 +1,338 @@
...
+
+variable (α)
+
+theorem sum_adj_eq_degree [AddCommMonoidWithOne α] (i : V) :
+    (G.degree i : α) = ∑ j : V, if G.Adj i j then 1 else 0 := by
+  rw [sum_boole]
+  unfold degree neighborFinset neighborSet
+  rw [Set.toFinset_setOf fun x ↦ Adj G i x]
+
+theorem ite_sub_distr {α : Type u_1} [NonAssocRing α] (P : Prop) [Decidable P] (a b : α) :
```
Comment (apurvanakade) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:78]: This theorem and the one below should be in a much earlier file. Maybe in Mathlib.Algebra.Ring.Defs next to [ite_add](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Ring/Defs.html#ite_add)

Comment (apurvanakade) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:78]: No actually, `P` does not need multiplication! This should work with just `AddGroup` requirement. Maybe move these to Mathlib.Algebra.Group.Basic ?

Comment (awueth) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: I renamed both theorems and made them more general, I hope this is better:
```lean
theorem ite_sub_ite {α : Type*} [Sub α] (P : Prop) [Decidable P] (a b c d : α) :
    ((if P then a else b) - if P then c else d) = if P then a - c else b - d := by
  split
  repeat rfl

theorem ite_add_ite {α : Type*} [Add α] (P : Prop) [Decidable P] (a b c d : α) :
    ((if P then a else b) + if P then c else d) = if P then a + c else b + d := by
  split
  repeat rfl
```
I'm not quite sure where to put it in `AddGroup`. Also `ite_add` does not need multiplication either, why is it in Mathlib.Algebra.Ring.Defs? Finally if I put these two theorems in another file, should I create a new pull request?

Comment (apurvanakade) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Good point. Mathlib.Algebra.Ring.Defs sounds good then. 

No, you don't need a new PR. It's ok to have multiple files being edited in a single PR.

Comment (apurvanakade) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: This PR is really cool btw. I'm looking forward to it getting merged and having more Spectral Graph Theory in mathlib.

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 8]
```diff
@@ -0,0 +1,331 @@
...
+    rw [star_trivial, ← toLinearMap₂'_apply', lapMatrix_toLinearMap₂']
+    apply div_nonneg_iff.mpr; left; constructor
+    · apply sum_nonneg'
+      intro i
+      apply sum_nonneg'
+      intro j
+      split_ifs
+      · exact sq_nonneg (x i - x j)
+      · rfl
+    · exact zero_le_two
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:132]:
```suggestion
theorem isPosSemidef_lapMatrix [LinearOrderedField α] [StarOrderedRing α] [TrivialStar α] :
    PosSemidef (G.lapMatrix α) := by
  constructor
  · rw [IsHermitian, conjTranspose_eq_transpose_of_trivial, isSymm_lapMatrix]
  · intro x
    rw [star_trivial, ← toLinearMap₂'_apply', lapMatrix_toLinearMap₂']
    refine div_nonneg (sum_nonneg' fun i ↦ sum_nonneg' fun j ↦ ?_) two_pos.le
    split
    · apply sq_nonneg
    · rfl
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 9]
```diff
@@ -0,0 +1,331 @@
...
+    simp [Matrix.IsHermitian.spectral_theorem' hA.1]
+    rfl
+  · simp only [isDiag_diagonal]
+  · intro i
+    rw [diagonal_apply_eq]
+    apply PosSemidef.eigenvalues_nonneg
+    exact hA
+
+theorem PosSemidef.toLinearMap₂'_zero_iff (A : Matrix V V ℝ) (h_psd : PosSemidef A) (x : V → ℝ) :
+    Matrix.toLinearMap₂' A x x = 0 ↔ Matrix.toLinearMap₂' A x = 0 := by
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:173]: I think it would be cleaner to express this in terms of `Matrix.toLin'` (i.e. interpreting A as a linear, not bilinear, map). Can you show
```
theorem PosSemidef.toLin'_zero_iff (A : Matrix V V ℝ) (h_psd : PosSemidef A) (x : V → ℝ) :
    Matrix.toLinearMap₂' A x x = 0 ↔ Matrix.toLin' A x = 0 := by sorry
```
? Then you can replace most of the uses of `toLinearMap₂'` (the ones which aren't explicitly using the bilinear form) further down the file with `toLin'`.

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 10]
```diff
@@ -0,0 +1,331 @@
...
+  split_ifs with h₁ h₂ h₃
+  · rfl
+  · simp only [one_ne_zero]
+    rw [← ConnectedComponent.eq] at h
+    absurd h₂
+    rw [← h₁, h]
+  · simp only [zero_ne_one]
+    rw [← ConnectedComponent.eq] at h
+    absurd h₁
+    rw [← h₃, h]
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:271]:
```suggestion
  · rw [← ConnectedComponent.eq] at h
    exact (h₂ (h₁ ▸ h.symm)).elim
  · rw [← ConnectedComponent.eq] at h
    exact (h₁ (h₃ ▸ h)).elim
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 11]
```diff
@@ -0,0 +1,331 @@
...
+    · apply sum_nonneg'
+      intro i
+      apply sum_nonneg'
+      intro j
+      split_ifs
+      · exact sq_nonneg (x i - x j)
+      · rfl
+    · exact zero_le_two
+
+/-- `sqrtDiagMatrix A` is the diagonal matrix consisting of the square root of the diagonal
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:134]: All the lemmas about positive-semidef matrices will have to be moved into `Mathlib.LinearAlgebra.Matrix.PosDef` or somewhere similar. It might be nice to add, at the same time, the following characterisation of positive semidefinite matrices:
```
lemma Matrix.posSemidef_iff_exists_eq_transpose_mul_self {A : Matrix V V ℝ} : 
    PosSemidef A ↔ ∃ (B : Matrix V V ℝ), A = Bᵀ * B := 
  ⟨fun hA ↦ ⟨_, hA.spectral_theorem⟩, fun ⟨B, hB⟩ ↦ (hB ▸ posSemidef_conjTranspose_mul_self B)⟩
```

**Review by loefflerd — COMMENTED** [review]
I've added some suggestions. Most of this is just minor "golfing" of proofs (expressing the same argument in slightly fewer lines). The only major point is that it would be nicer to work with the kernel of the Laplacian as an endomorphism of the space of functions on V, rather than what you do here, which is actually to regard it as a map from that space to its own dual.

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 11 above)
Comment (loefflerd) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:134]: I've made a separate PR #8809 for the linear-algebra parts (crediting you as a contributor) – I hope that's OK with you.

Comment (awueth) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:110]: Thats fine with me, thanks!

**Comment by awueth** [comment]
I merged master into this branch in order to use ```PosSemidef.toLinearMap₂'_zero_iff``` from #8809. Was this a mistake? This branch is now 500 commits ahead which is not what I intended. How do I fix this?

**Comment by loefflerd** [comment]
The usual recipe is to make a new fresh branch from master, and then import your old changes into it using `git merge --squash`, which destroys the git history. Then you "force push" the new branch to GitHub (`git push --force`). Some open source projects are very insistent that destroying git history is a bad thing, but mathlib has its own way of doing things (and each PR gets squashed down to a single commit, with a new label, when it gets merged anyway).

I think it's best if I fix this, since I have a clean copy of your old git branch saved. Here you go.

**Comment by loefflerd** [comment]
When you want to work further on this, I suggest killing your current git branch and then checking out the new branch from GitHub:
```
git fetch
git branch -D awueth-lapMatrix
git checkout origin/awueth-lapMatrix
```

**Comment by awueth** [comment]
> When you want to work further on this, I suggest killing your current git branch and then checking out the new branch from GitHub:
> 
> ```
> git fetch
> git branch -D awueth-lapMatrix
> git checkout origin/awueth-lapMatrix
> ```

Thanks a lot! It looks to be working nicely again.

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 7 above)
Comment (awueth) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Got it done now

**Comment by loefflerd** [comment]
Merge conflict now fixed, please review!

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 12]
```diff
@@ -0,0 +1,207 @@
...
+
+open BigOperators Finset Matrix SimpleGraph
+
+variable {V α : Type*} (α) [Fintype V] [DecidableEq V] (G : SimpleGraph V) [DecidableRel G.Adj]
+
+/-- The diagonal matrix consisting of the degrees of the vertices in the graph. -/
+def SimpleGraph.degMatrix [AddMonoidWithOne α] : Matrix V V α := Matrix.diagonal (G.degree ·)
+
+/-- `lapMatrix G R` is the matrix `L = D - A` where `D`is the degree
+  and `A` the adjacency matrix of `G`. -/
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:36]:
```suggestion
and `A` the adjacency matrix of `G`. -/
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 13]
```diff
@@ -0,0 +1,207 @@
...
+variable (α)
+
+theorem sum_adj_eq_degree [AddCommMonoidWithOne α] (i : V) :
+    (G.degree i : α) = ∑ j : V, if G.Adj i j then 1 else 0 := by
+  unfold degree neighborFinset neighborSet
+  rw [sum_boole, Set.toFinset_setOf]
+
+/-- Let $L$ be the graph Laplacian and let $x \in \mathbb{R}$, then
+ $$x^{\top} L x = \sum_{i \sim j} (x_{i}-x_{j})^{2}$$
+ where $\sim$ denotes the adjacency relation -/
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:69]:
```suggestion
$$x^{\top} L x = \sum_{i \sim j} (x_{i}-x_{j})^{2}$$
where $\sim$ denotes the adjacency relation -/
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 14]
```diff
@@ -0,0 +1,207 @@
...
+  simp [mul_sum]
+
+theorem dotProduct_mulVec_degMatrix [CommRing α] (x : V → α) :
+    x ⬝ᵥ mulVec (G.degMatrix α) x = ∑ i : V, G.degree i * x i * x i := by
+  unfold dotProduct degMatrix
+  simp only [mulVec_diagonal, ← mul_assoc, mul_comm (x _)]
+
+variable (α)
+
+theorem sum_adj_eq_degree [AddCommMonoidWithOne α] (i : V) :
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:62]: Given the theorem statement, it would be in the reverse order. Maybe throw in an `if`? So `degree_eq_sum_if_adj`

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 15]
```diff
@@ -0,0 +1,207 @@
...
+  constructor
+  · rw [IsHermitian, conjTranspose_eq_transpose_of_trivial, isSymm_lapMatrix]
+  · intro x
+    rw [star_trivial, ← toLinearMap₂'_apply', lapMatrix_toLinearMap₂']
+    refine div_nonneg (sum_nonneg' fun i ↦ sum_nonneg' fun j ↦ ?_) two_pos.le
+    split
+    · apply sq_nonneg
+    · rfl
+
+theorem lapMatrix_toLinearMap₂'_apply'_zero_iff_adj [LinearOrderedField α] (x : V → α) :
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:100]: The name should have `eq` in there. Maybe `forall` too? `lapMatrix_toLinearMap₂'_apply'_eq_zero_iff_forall_adj`

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 16]
```diff
@@ -0,0 +1,207 @@
...
+        · apply sq_nonneg
+        · rfl
+      · simpa only [hn, ite_true, gt_iff_lt, sub_pos] using
+          sq_pos_of_ne_zero _ (sub_ne_zero.mpr hn.2)
+  · intro h
+    rw [lapMatrix_toLinearMap₂', div_eq_zero_iff]
+    refine Or.inl <| sum_eq_zero λ i _ ↦ (sum_eq_zero λ j _ ↦ ?_)
+    simpa only [ite_eq_right_iff, zero_lt_two, pow_eq_zero_iff, sub_eq_zero] using h i j
+
+theorem lapMatrix_toLinearMap₂'_zero_iff_adj (x : V → ℝ) :
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:124]:
```suggestion
theorem lapMatrix_toLin'_apply_eq_zero_iff_forall_adj (x : V → ℝ) :
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 17]
```diff
@@ -0,0 +1,207 @@
...
+    Matrix.toLin' (G.lapMatrix ℝ) x = 0 ↔ ∀ i j : V, G.Adj i j → x i = x j := by
+  rw [← (isPosSemidef_lapMatrix ℝ G).toLinearMap₂'_zero_iff x, star_trivial,
+      lapMatrix_toLinearMap₂'_apply'_zero_iff_adj]
+
+theorem lapMatrix_toLinearMap₂'_apply'_zero_iff_reachable (x : V → ℝ) :
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:129]:
```suggestion
theorem lapMatrix_toLinearMap₂'_apply'_eq_zero_iff_forall_reachable (x : V → ℝ) :
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 18]
```diff
@@ -0,0 +1,207 @@
...
+  · intro h i j
+    unfold Reachable
+    rw [Nonempty.forall]
+    intro w
+    induction' w with w i j _ hA _ h'
+    · rfl
+    · exact (h i j hA).trans h'
+  · exact fun h i j hA ↦ h i j (Adj.reachable hA)
+
+theorem ker_reachable_eq (x : V → ℝ) : Matrix.toLin' (G.lapMatrix ℝ) x = 0 ↔
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:142]:
```suggestion
theorem lapMatrix_toLin'_apply_eq_zero_iff_forall_reachable (x : V → ℝ) : Matrix.toLin' (G.lapMatrix ℝ) x = 0 ↔
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 19]
```diff
@@ -0,0 +1,207 @@
...
+    ∀ i j : V, G.Reachable i j → x i = x j := by
+  rw [← (isPosSemidef_lapMatrix ℝ G).toLinearMap₂'_zero_iff, star_trivial,
+      lapMatrix_toLinearMap₂'_apply'_zero_iff_reachable]
+
+variable [DecidableEq G.ConnectedComponent]
+
+lemma lapMatrix_ker_basis_aux_well_defined {G : SimpleGraph V} [DecidableRel G.Adj]
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:149]: I'm not sure what to call this. Here's an option.
```suggestion
lemma mem_ker_toLin'_lapMatrix_of_connectedComponent {G : SimpleGraph V} [DecidableRel G.Adj]
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 20]
```diff
@@ -0,0 +1,207 @@
...
+  · rw [← ConnectedComponent.eq] at h
+    exact (h₂ (h₁ ▸ h.symm)).elim
+  · rw [← ConnectedComponent.eq] at h
+    exact (h₁ (h₃ ▸ h)).elim
+  · rfl
+
+/-- Given a connected component `c` of a graph `G`, `lapMatrix_ker_basis_aux c` is the map
+  `V → ℝ` which is `1` on the vertices in `c` and `0` elsewhere.
+  The family of these maps indexed by the connected components of `G` proves to be a basis
+  of the kernel of `lapMatrix G R` -/
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:166]:
```suggestion
`V → ℝ` which is `1` on the vertices in `c` and `0` elsewhere.
The family of these maps indexed by the connected components of `G` proves to be a basis
of the kernel of `lapMatrix G R` -/
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 21]
```diff
@@ -0,0 +1,207 @@
...
+def lapMatrix_ker_basis_aux (c : G.ConnectedComponent) :
+    LinearMap.ker (Matrix.toLin' (G.lapMatrix ℝ)) :=
+  ⟨fun i ↦ if G.connectedComponentMk i = c then (1 : ℝ)  else 0,
+    lapMatrix_ker_basis_aux_well_defined c⟩
+
+lemma lapMatrix_ker_basis_aux_linearIndependent :
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:172]: I think this should go the other way?
```suggestion
lemma linearIndependent_lapMatrix_ker_basis_aux :
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 22]
```diff
@@ -0,0 +1,207 @@
...
+  · simp only [lapMatrix_ker_basis_aux, SetLike.mk_smul_mk, AddSubmonoid.coe_finset_sum]
+    conv_lhs => enter [2, c, j]; rw [Pi.smul_apply, smul_eq_mul, mul_ite, mul_one, mul_zero]
+    ext i
+    simp only [Finset.sum_apply, sum_ite_eq, mem_univ, ite_true]
+  rw [h] at h0
+  intro c
+  obtain ⟨i, h'⟩ : ∃ i : V, G.connectedComponentMk i = c := Quot.exists_rep c
+  exact h' ▸ congrFun h0 i
+
+lemma lapMatrix_ker_basis_aux_spanning :
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:187]: Mathlib names always follow the syntax of the lemma, not the meaning of it, unless "spanning" is a convention specified somewhere and I'm not familiar with it.
```suggestion
lemma top_le_span_range_lapMatrix_ker_basis_aux :
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 23]
```diff
@@ -0,0 +1,207 @@
...
+  use Quot.lift x.val (by rw [← ker_reachable_eq G x, LinearMap.map_coe_ker])
+  ext j
+  simp only [lapMatrix_ker_basis_aux, AddSubmonoid.coe_finset_sum, Submodule.coe_toAddSubmonoid,
+    SetLike.val_smul, Finset.sum_apply, Pi.smul_apply, smul_eq_mul, mul_ite, mul_one, mul_zero,
+    sum_ite_eq, mem_univ, ite_true]
+  rfl
+
+/-- `lapMatrix_ker_basis G` is a basis of the nullspace indexed by its connected components,
+  the basis is made up of the functions `V → ℝ` which are `1` on the vertices of the given
+  connected component and `0` elsewhere. -/
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:200]:
```suggestion
the basis is made up of the functions `V → ℝ` which are `1` on the vertices of the given
connected component and `0` elsewhere. -/
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 24]
```diff
@@ -0,0 +1,207 @@
...
+noncomputable def lapMatrix_ker_basis :=
+    Basis.mk (lapMatrix_ker_basis_aux_linearIndependent G) (lapMatrix_ker_basis_aux_spanning G)
+
+/-- The number of connected components in `G` is the dimension of the nullspace its Laplacian -/
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:204]:
```suggestion
/-- The number of connected components in `G` is the dimension of the nullspace its Laplacian. -/
```

**Review by kmill — COMMENTED** [review]
Some comments, mostly naming and style.

**Comment by apurvanakade** [comment]
LGTM

**Review by apurvanakade — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 25]
```diff
@@ -0,0 +1,224 @@
...
+
+theorem lapMatrix_mulVec_const_eq_zero [Ring α] : mulVec (G.lapMatrix α) (fun _ ↦ 1) = 0 := by
+  ext1 i
+  rw [lapMatrix_mulVec_apply]
+  simp
+
+theorem dotProduct_mulVec_adjMatrix [Ring α] (x : V → α) :
+    x ⬝ᵥ (G.adjMatrix α).mulVec x = ∑ i : V, ∑ j : V, if G.Adj i j then x i * x j else 0 := by
+  unfold mulVec dotProduct
+  simp [mul_sum]
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:66]: This should go into the AdjMatrix module

**Review by kmill — COMMENTED** [review]
I pushed some cosmetic changes, and wrapped everything in the `SimpleGraph` namespace.

There's some missing API still. I added a couple theorems. Basically, much of the time when there's an `unfold`, it indicates that there's some lemma that's missing. I suspect `lapMatrix_toLinearMap₂'` for example contains some intermediate results that we'd want.

We don't need to go too deep into this before we merge, but I want to be sure that we have lemmas like the ones in AdjMatrix surrounding the definitions so that we don't need to `unfold` so much.

(I left one comment; I haven't done a very careful review for other such lemmas yet.)

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 25 above)
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:66]:
```suggestion
  simp only [dotProduct, mulVec, adjMatrix_apply, ite_mul, one_mul, zero_mul, mul_sum, mul_ite,
    mul_zero]
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 26]
```diff
@@ -0,0 +1,224 @@
...
+
+theorem dotProduct_mulVec_degMatrix [CommRing α] (x : V → α) :
+    x ⬝ᵥ (G.degMatrix α).mulVec x = ∑ i : V, G.degree i * x i * x i := by
+  unfold dotProduct degMatrix
+  simp only [mulVec_diagonal, ← mul_assoc, mul_comm (x _)]
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:71]:
```suggestion
  simp only [dotProduct, degMatrix, mulVec_diagonal, ← mul_assoc, mul_comm]
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 27]
```diff
@@ -0,0 +1,224 @@
...
+
+variable (α)
+
+theorem degree_eq_sum_if_adj [AddCommMonoidWithOne α] (i : V) :
+    (G.degree i : α) = ∑ j : V, if G.Adj i j then 1 else 0 := by
+  unfold degree neighborFinset neighborSet
+  rw [sum_boole, Set.toFinset_setOf]
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:78]:
```suggestion
  simp_rw [degree, neighborFinset, neighborSet, sum_boole]
  rw [Set.toFinset_setOf]
```
(for some reason `simp_rw` won't fire on `Set.toFinset_setOf` -- maybe it doesn't locate the decidability instances?)

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 28]
```diff
@@ -0,0 +1,224 @@
...
+theorem lapMatrix_toLinearMap₂' [Field α] [CharZero α] (x : V → α) :
+    toLinearMap₂' (G.lapMatrix α) x x =
+    (∑ i : V, ∑ j : V, if G.Adj i j then (x i - x j)^2 else 0) / 2 := by
+  rw [toLinearMap₂'_apply']
+  unfold lapMatrix
+  rw [sub_mulVec]
+  simp only [dotProduct_sub]
+  rw [dotProduct_mulVec_degMatrix, dotProduct_mulVec_adjMatrix, ← sum_sub_distrib]
+  simp only [degree_eq_sum_if_adj, sum_mul, ← sum_sub_distrib, ite_mul, one_mul,
+             zero_mul, ite_sub_ite, sub_zero]
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:92]:
```suggestion
  simp_rw [toLinearMap₂'_apply', lapMatrix, sub_mulVec, dotProduct_sub, dotProduct_mulVec_degMatrix,
    dotProduct_mulVec_adjMatrix, ← sum_sub_distrib, degree_eq_sum_if_adj, sum_mul, ite_mul, one_mul,
    zero_mul, ← sum_sub_distrib, ite_sub_ite, sub_zero]
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 29]
```diff
@@ -0,0 +1,224 @@
...
+  rw [lapMatrix_toLinearMap₂'_apply'_eq_zero_iff_forall_adj]
+  apply Iff.intro
+  · intro h i j
+    unfold Reachable
+    rw [Nonempty.forall]
+    intro w
+    induction' w with w i j _ hA _ h'
+    · rfl
+    · exact (h i j hA).trans h'
+  · exact fun h i j hA ↦ h i j (Adj.reachable hA)
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:153]:
```suggestion
  refine ⟨?_, fun h i j hA ↦ h i j hA.reachable⟩
  · intro h i j ⟨w⟩
    induction' w with w i j _ hA _ h'
    · rfl
    · exact (h i j hA).trans h'
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 30]
```diff
@@ -0,0 +1,224 @@
...
+      · rfl
+    · refine ⟨i, mem_univ _, sum_pos' (λ k _ ↦ ?_) ⟨j, mem_univ _, ?_⟩⟩
+      · split_ifs
+        · apply sq_nonneg
+        · rfl
+      · simpa only [hn, ite_true, gt_iff_lt, sub_pos] using
+          sq_pos_of_ne_zero _ (sub_ne_zero.mpr hn.2)
+  · intro h
+    rw [lapMatrix_toLinearMap₂', div_eq_zero_iff]
+    refine Or.inl <| sum_eq_zero λ i _ ↦ (sum_eq_zero λ j _ ↦ ?_)
```
Comment (loefflerd) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:134]:
```suggestion
    by_contra! hn
    suffices hc : toLinearMap₂' (G.lapMatrix α) x x > 0
    · exact gt_irrefl _ (h ▸ hc)
    rw [lapMatrix_toLinearMap₂']
    refine div_pos (sum_pos' (fun k _ ↦ sum_nonneg' (fun l ↦ ?_)) ?_) two_pos
    · exact ite_nonneg (sq_nonneg _) le_rfl
    · refine ⟨i, mem_univ _, sum_pos' (fun k _ ↦ ?_) ⟨j, mem_univ _, ?_⟩⟩
      · exact ite_nonneg (sq_nonneg _) le_rfl
      · simpa only [hn, ite_true, gt_iff_lt, sub_pos] using
          sq_pos_of_ne_zero _ (sub_ne_zero.mpr hn.2)
  · intro h
    rw [lapMatrix_toLinearMap₂', div_eq_zero_iff]
    refine Or.inl <| sum_eq_zero fun i _ ↦ (sum_eq_zero fun j _ ↦ ?_)
```
(I think `fun` is deprecated in favour of `fun` in mathlib 4.)

**Review by loefflerd — COMMENTED** [review]
The remaining `unfold`'s aren't so much a sign of missing API, as of existing API which hasn't been used (fortunately, since most of them are unfolding pre-existing mathlib definitions, rather than ones added in this PR). I'm posting suggested reformulations which avoid the unfoldings entirely.

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean (hunk 25 above)
Comment (awueth) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:66]: Are `unfold`'s something that should be avoided in general?

Comment (awueth) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: In the cases below I see why it makes sense but here using 'unfold' appears more readable to me.

Comment (awueth) [reply Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean]: Done. I'm not sure about in the placement though, i feel like it could also go below `adjMatrix_vecMul_apply`.

**Comment by loefflerd** [comment]
It wasn't merging cleanly so I have force-pushed a new, rebased branch.

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 31]
```diff
@@ -0,0 +1,202 @@
...
+  rw [← half_add_self (∑ x_1 : V, ∑ x_2 : V, _)]
+  conv_lhs => enter [1,2,2,i,2,j]; rw [if_congr (adj_comm G i j) rfl rfl]
+  conv_lhs => enter [1,2]; rw [Finset.sum_comm]
+  simp_rw [← sum_add_distrib, ite_add_ite]
+  congr 2 with i
+  congr 2 with j
+  ring_nf
+
+/-- The Laplacian matrix is positive semidefinite -/
+theorem isPosSemidef_lapMatrix [LinearOrderedField α] [StarOrderedRing α] [TrivialStar α] :
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:90]:
```suggestion
theorem posSemidef_lapMatrix [LinearOrderedField α] [StarOrderedRing α] [TrivialStar α] :
```

File: Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean [hunk 32]
```diff
@@ -0,0 +1,202 @@
...
+
+/-- `lapMatrix_ker_basis G` is a basis of the nullspace indexed by its connected components,
+the basis is made up of the functions `V → ℝ` which are `1` on the vertices of the given
+connected component and `0` elsewhere. -/
+noncomputable def lapMatrix_ker_basis :=
+  Basis.mk (linearIndependent_lapMatrix_ker_basis_aux G)
+    (top_le_span_range_lapMatrix_ker_basis_aux G)
+
+/-- The number of connected components in `G` is the dimension of the nullspace its Laplacian. -/
+theorem rank_ker_lapMatrix_eq_card_ConnectedComponent : Fintype.card G.ConnectedComponent =
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/LapMatrix.lean:198]:
```suggestion
theorem card_ConnectedComponent_eq_rank_ker_lapMatrix : Fintype.card G.ConnectedComponent =
```

**Review by kmill — APPROVED** [review]
Thanks for all the work on this!

There are just two mathlib naming convention issues I noticed, and once you fix those, let's merge.

bors d+

I have now delegated merging rights to you. After you address the comments, you can create a comment that contains `bors merge` on a line of its own, and that will send it off into the next merge batch. It is usually courteous to wait until the CI passes on your own branch before sending it to bors, since the batch fails if any included PR fails.

**Comment by awueth** [comment]
bors merge
